US09120771B2
Synthesis of tertiary butyl 3-((3,4-dichlorophenyl)(2H-tetrazol-2-yl)methyl)azetidine-1-carboxylate
Tetrazole (90.0 mg, 1.28 mmol) was added to tertiary butyl 3-((3,4-dichlorophenyl)(hydroxy)methyl)azetidine-1-carboxylate (200 mg, 0.638 mmol) and triphenylphosphine (335 mg, 1.28 mmol) dissolved in the distilled tetrahydrofuran solution (15.0 mL), and diisopropyl azocarboxylate (0.25 mL, 1.28 mmol) was slowly added thereto at 0° C., and the mixture was stirred at room temperature for one day. The solvent of the reaction mixture was removed by reduced pressure evaporation to obtain a yellow liquid, which was purified by flash chromatography (n-hexane:ethyl acetate (4:1, v/v)). The product was identified as a single compound by TLC (n-hexane:ethyl acetate (4:1, v/v)) (yield: 88%, white solid). This white solid was dissolved in 10 mL of methanol solution, and 1 N HCl (3.0 mL) was added thereto, and heated to reflux at 60° C. for one day. Thereafter, the solvent of the reaction mixture was removed by reduced pressure evaporation to obtain the title compound (KHG27280).

reactant | Tetrazole | 1.28 mmol, 90.0 mg | N1N=NN=C1 | CH2N4
reactant | tertiary butyl 3-((3,4-dichlorophenyl)(hydroxy)methyl)azetidine-1-carboxylate | 0.638 mmol, 200 mg | ClC=1C=C(C=CC1Cl)C(C1CN(C1)C(=O)OC(C)(C)C)O | C15H19Cl2NO3
reactant | triphenylphosphine | 1.28 mmol, 335 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azocarboxylate | 1.28 mmol, 0.25 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 15.0 mL | O1CCCC1 | C4H8O
product | tertiary butyl 3-((3,4-dichlorophenyl)(2H-tetrazol-2-yl)methyl)azetidine-1-carboxylate | yield: 88% | ClC=1C=C(C=CC1Cl)C(C1CN(C1)C(=O)OC(C)(C)C)N1N=CN=N1 | C16H19Cl2N5O2
